Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Night sweats
 
Major Surgical or Invasive Procedure:
Lymph Node Core Biopsy ___
Lymph Node Excisional Biopsy ___
Port Placement ___

 
History of Present Illness:
Ms. ___ is a ___ year old female with past medical history 
significant for RA, anorexia, anxiety/depression who is admitted 
to medicine service for night sweats and lymphadenopathy.

Pt recently seen as outpatient on ___ to re-establish care 
and discuss night sweats and lymphadenopathy. She described that 
for the past 4 wks she has had severe night sweats that wake her 
from sleep and require her to change her clothes. She also had a 
temperature of ___ last week. Of note, on ___, she 
had a couple drinks and noticed an area of warmth above her 
collar bone when  she noticed a nontender lymph node on the R 
side of her neck. She also reported a hx of eczema as a child 
and over the past few weeks has noticed numerous dry, scaly, 
pink patches around eyes, lips, back of legs, and anticubital 
fossa. Regarding her weight she is unsure of any weight loss as 
she does not weigh herself, however she does endorse that her 
clothes have been a little looser. Denies changes in appetite, 
CP, DOE, stridor, facial flushing, joint pain, or sick contacts. 
Within the last 6 months she has traveled to ___, ___, 
___ and was born in ___. 

Pt was able to complete CT chest  that day and noted to have 
multiple mediastinal adenopathy. She was then instructed 
tompresent to ___ ED for immediate evaluation.

In the ED:
- Initial vital signs were notable for: 96.3, 108, 156/98, 16 
99% RA
- Exam notable for: Right supraclavicular nontender 
lymphadenopathy
- Labs were notable for: 
15>11.5/37<425
LDH 274
Lactate 2.6 --> 0.9 
Retic abs 0.05
HIV neg
Blood, urine cultures pending

- Studies performed include: CT A/P w/contrast 
- Patient was given: IVF
- Consults: ___ and IP

Vitals on transfer: 98.9, 77, 128/78, 15 100% RA

Upon arrival to the floor, reiterated hx as above. She is able 
to adeptly summarize the past 2 days, describes feeling 
overwhelmed but trying to take things one step at a time. Her 
husband is bedside. 
 
Past Medical History:
AMENORRHEA                                                      
ANOREXIA NERVOSA                                                
BULIMIA                                                         
GASTROESOPHAGEAL REFLUX                                         
OSTEOPENIA                                                      
RHEUMATOID ARTHRITIS                                            
DEPRESSION
 
Social History:
___
Family History:
Father testicular cancer, Mother's cousin: leukemia  No known 
family history of early CAD, DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 1440)
    Temp: 98.4 (Tm 98.4), BP: 108/85, HR: 101, RR: 16, O2 sat:
98%, O2 delivery: Ra  
General: Well appearing thin female in no acute distress
HEENT: Pupils equal in size, reactive to light. No ptosis or
facial flushing, oral mucosa moist
Lymph nodes: firm nontender lymph node in supraclavicular region
on right, no auricular, posterior auricular, cervical lymph node
appreciated.
Cardiac: RRR, no murmurs
Respiratory: CTAB
Abdomen: soft, non tender, non distended
Skin: small patch of scaly skin near lip
Neuro: CN2-12 in tact, strength ___ in upper and lower
extremities, no gait abnormalities.

DISCHARGE PHYSICAL EXAM
========================
PHYSICAL EXAM:  
24 HR Data (last updated ___ @ 901)
    Temp: 97.9 (Tm 99.2), BP: 111/75 (107-125/69-85), HR: 88
(82-108), RR: 18, O2 sat: 100% (98-100), O2 delivery: Ra  
 
GENERAL:  NAD, well appearing woman
HEENT: Clear OP without lesions, membranes moist
EYES:  Anicteric, PERRL
NECK:  supple, well approximated surgical incision over right
suraclavicular area c/d/I without erythema or drainage. 
RESP:  CTAB, no increased WOB
___:  RRR no MRG
GI:  soft, NTND no HSM
EXT: warm, no edema 
SKIN:  dry, no rashes
NEURO:  CN II-XII intact
ACCESS:  PIV

 
Pertinent Results:
ADMISSION LABS
==============

___ 05:05PM BLOOD WBC-15.0* RBC-4.51 Hgb-11.5 Hct-37.0 
MCV-82 MCH-25.5* MCHC-31.1* RDW-14.6 RDWSD-44.0 Plt ___
___ 05:05PM BLOOD Neuts-82.1* Lymphs-10.8* Monos-5.0 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-12.32* AbsLymp-1.62 
AbsMono-0.75 AbsEos-0.13 AbsBaso-0.09*
___ 08:30PM BLOOD ___ PTT-34.0 ___
___ 05:05PM BLOOD UreaN-10 Creat-0.7 Na-141 K-3.9 Cl-101 
HCO3-23 AnGap-17
___ 05:05PM BLOOD Glucose-85
___ 05:05PM BLOOD LD(LDH)-274*
___ 08:30PM BLOOD Calcium-9.9 Phos-3.5 Mg-2.1 UricAcd-3.9
___ 05:05PM BLOOD TSH-4.5*
___ 08:30PM BLOOD T3-180 Free T4-1.5
___ 08:46PM BLOOD Lactate-2.6*

INTERVAL LABS
=============
___ 06:00AM BLOOD HCV Ab-NEG
___ 05:05PM BLOOD HIV Ab-NEG
___ 06:20AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS*
___ 06:20AM BLOOD calTIBC-198* Ferritn-114 TRF-152*
___ 09:35AM BLOOD Ret Aut-1.4 Abs Ret-0.05
___ 09:35AM BLOOD G6PD-NORMAL
___ 06:20AM BLOOD ___
___ 08:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 08:30PM URINE UCG-NEGATIVE

DISCHARGE LABS
===============

___ 06:50AM BLOOD WBC-10.8* RBC-4.37 Hgb-11.3 Hct-35.2 
MCV-81* MCH-25.9* MCHC-32.1 RDW-15.2 RDWSD-44.1 Plt ___
___ 06:50AM BLOOD ___ PTT-32.1 ___
___ 06:50AM BLOOD Glucose-85 UreaN-10 Creat-0.6 Na-141 
K-4.3 Cl-102 HCO3-24 AnGap-15
___ 06:50AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.1

IMAGING/STUDIES
===============
___ CT CHEST WITH CONTRAST
IMPRESSION: 
Severe mediastinal adenopathy, spares the hila and axilla.  
Lymph nodes are
homogeneous, soft tissue in texture, lacking the low-attenuation 
often seen
with infection.  Despite their great bulk they produce 
relatively little
compromise of vital structures, restricted to the superior vena 
cava and left
brachiocephalic vein, a finding more suggestive of 
lymphoproliferative
disorder like B-cell mediastinal lymphoma or even Hodgkin's 
disease and soft
tissue malignancy.  Relatively even distribution between the 
prevascular and
paratracheal mediastinum argues against thymoma or germ cell 
tumor.

___ CT ABD & PELVIS WITH CONTRAST
Multiple splenic hypodensities measuring up to 2 cm in largest 
diameter are
concerning for lymphoma in the setting of bulky mediastinal 
lymphadenopathy. 
Otherwise unremarkable exam of the abdomen the pelvis.

___ LYMPH NODE IMMUNOPHENOTYPING
Non-specific T cell predominant lymphoid profile; diagnostic 
immunophenotypic features of involvement by leukemia/lymphoma 
are not seen in this specimen. Correlation with clinical, 
morphologic (see separate pathology report ___ and other 
ancillary findings is recommended. Flow cytometry 
immunophenotyping may not detect all abnormal populations due to 
topography, sampling or artifacts of sample preparation.

___ LYMPH NODE PATHOLOGY
SPECIMEN: LYMPH NODE, SUPRACLAVICULAR, CORE NEEDLE BIOPSY:
DIAGNOSIS: ATYPICAL LYMPHOID INFILTRATE WITH SCATTERED LARGE 
CELLS, SEE
NOTE.
Note: Sections of core biopsies shows predominantly fibrous 
tissue with several small foci of
lymphoid tissue. The predominant population of lymphocytes are 
small, mature appearing with rare scattered large mononuclear 
lymphoid cells with scant cytoplasm, irregular nuclear contours, 
open chromatin with prominent nucleolus, likely representing 
immunoblasts.
By immunohistochemistry, CD20 highlights large clusters of small 
B-lymphocytes. Pax5 exhibits a similar pattern of staining and 
also stains some scattered large cells dimly. CD3 and CD5 
highlight abundant small T lymphocytes throughout the biopsy. 
CD30 is positive in small groups of large cells.
CD15 is positive in neutrophils, but negative in the lymphoid 
cells, including the large cells. The Ki-___ stain highlights 
scattered large cells. An EBV In-situ hybridization stain is 
negative.
Taken together these findings are concerning for, but not 
diagnostic of classical Hodgkins
Lymphoma. An excisional biopsy is recommended for definitive 
diagnosis. Clinical, flow cytometry, and cytogenetic correlation 
is recommended

___ LYMPH NODE CYTOGENETICS
CYTOGENETIC DIAGNOSIS: Undetermined.
INTERPRETATION/COMMENT: Chromosome analysis was not possible 
because the culture set up from this scant right supraclavicular 
lymph node core needle biopsy did not produce mitotic cells.
FISH: NEGATIVE HIGH GRADE LYMPHOMA PANEL. No evidence of 
interphase supraclavicular lymph node cells with the IGH/BCL2 
gene rearrangement or rearrangements of the BCL6 and MYC genes.

___ LYMPH NODE PATHOLOGY
SPECIMEN: RIGHT SUPRACLAVICULAR LYMPH NODE EXCISION:
DIAGNOSIS:
CLASSIC HODGKIN LYMPHOMA, NODULAR SCLEROSIS SUBTYPE; SEE NOTE.
Note: sections are of an enlarged lymph node with thickened 
fibrotic capsule and an effaced nodal architecture by a 
polymorphous inflammatory infiltrate of small lymphoid cells, 
histiocytes, eosinophils, neutrophils, plasma cells in a 
fibrotic background. Also admixed, are scattered large atypical 
cells with one or more nuclear lobes, fine chromatin pattern, 
rare prominent nucleoli and moderate amount of cytoplasm. Few 
scattered mumified cells are also noted.
By immunohistochemistry, the large atypical cells are 
immunoreactive for CD30 and CD15 (subset).
They have weak expression of PAX5, but are largely negative for 
pan B cell marker CD20. CD20 and PAX5 highlights background 
loose clusters of small B-cells, while CD3 and CD5 highlights 
abundant background T cells. CD10 highlights endothelial cells 
and some granulocytes. CD45 is diffusely positive within the 
inflammatory cells including a subset of the large cells. By 
___-___ immunostaining, the proliferation index is 30% overall, 
however a majority of the large cells are staining.
Overall, the combined morphological and imunophenotypc findings 
are consistent with involvement by classical Hodgkin lymphoma, 
best further classified as Nodular sclerosis subtype. 
Correlation with clinical, cytogenetic (see report ___-___) 
and radiographic findings is recommended. 

___ LYMPH NODE IMMUNOPHENOTYPING
Non-specific T cell predominant lymphoid profile; diagnostic 
immunophenotypic features of involvement by leukemia/lymphoma 
are not seen in this specimen. Correlation with clinical, 
morphologic (see separate pathology report ___ and other 
ancillary findings is recommended. Flow cytometry 
immunophenotyping may not detect all abnormal populations due to 
topography, sampling or artifacts of sample preparation.

___ LYMPH NODE CYTOGENETICS
FINDINGS: An apparently normal 46,XX female chromosome 
complement was observed in 20 mitotic cells examined in detail. 
Chromosome band resolution was 400. A karyogram was prepared on 
3 cells.
CYTOGENETIC DIAGNOSIS: 46,XX[20] Normal female karyotype

___ PET SCAN
FINDINGS:  HEAD/NECK: There is conglomerate FDG avid right 
cervical chain level
IV lymph nodes demonstrating a max SUV of 7.7 (CT 34, PET 45).  
There is an FDG
avid left cervical chain level IV lymph node demonstrating a max 
SUV of 2.7 (CT
29, PET 30).  The thyroid is unremarkable.
 
CHEST: There is conglomerate FDG avid mediastinal 
lymphadenopathy demonstrating
a max SUV of 11.8 in the right lower paratracheal station (CT 
61, PET 81). There
are FDG avid bilateral internal mammary lymph nodes 
demonstrating max SUVs of
10.0 and 10.2 in the left and right sides, respectively (CT 61, 
PET ___, PET 93).  There is a FDG avid right hilar lymph node 
demonstrating a max SUV
of 8.8 (CT 64, PET 85).  There is a  FDG avid paraesophageal 
lymph node
demonstrating max SUV of 3.2 (CT 65, PET 86).  Within the 
limitations of non
breath hold technique, there is no suspicious pulmonary nodule.
 
ABDOMEN/PELVIS: There are three FDG avid lesions in the spleen, 
the most FDG
avid of which demonstrates a max SUV of 7.2 (CT 97, PET 129).  
There is an FDG
avid lymph node at the porta hepatis which demonstrates a max 
SUV of 4.4 (CT
___, PET 137).  An intrauterine device appears well positioned.
 
MUSCULOSKELETAL: There is diffuse FDG avidity of the visualized 
osseous
structures.
 
Physiologic uptake is seen in the brain, myocardium, salivary 
glands, GI and GU
tracts, liver and spleen.
 
IMPRESSION:  1. Conglomerate FDG avid mediastinal and right 
hilar
lymphadenopathy demonstrating max SUVs of 11.8 in the 
mediastinum and 8.8 in the
right hilum.  FDG avid bilateral internal mamillary 
lymphadenopathy
demonstrating max SUVs of 10.0 and 10.2 in the left and right 
sides,
respectively. 
 
2. FDG avid lesions in the spleen with a max SUV of 7.2. 
 
3. FDG avid lymph node in the porta hepatis with a max SUV of 
4.4. 
 
4. FDG avid bilateral right worse than left cervical chain level 
IV
lymphadenopathy demonstrating max SUV of 7.7 on the right side. 
 
5. Diffuse FDG avidity of the visualized osseous structures 
likely representing
bone marrow reactivation. 
 
6. ___ 5.
 

___ TTE
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
The visually estimated left ventricular ejection fraction is 
55-60%. There is no resting left ventricular outflow tract 
gradient. No ventricular septal defect is seen. Tissue Doppler 
suggests a normal left ventricular filling pressure (PCWP less 
than 12mmHg). There is normal diastolic function. Normal right 
ventricular cavity size with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. The 
aortic valve leaflets (3) appear structurally normal. There is 
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is trivial mitral regurgitation. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/ global systolic 
function. No echocardiographic evidence for left ventricular 
diastolic dysfunction.

___ PORT PLACEMENT
IMPRESSION: 
Successful placement of a single lumen chest power Port-a-cath 
via the right internal jugular venous approach. The tip of the 
catheter terminates in the  right atrium. The catheter is ready 
for use.

 
Brief Hospital Course:
PATIENT SUMMARY
====================
___ with a history of rheumatoid arthritis in remission, 
presents for the evaluation of B symptoms and adenopathy with CT 
imaging demonstrating bulky mediastinal adenopathy and 
excisional biopsy of her right supraclavicular lymph node 
confirming Hodgkin's Lymphoma.

ACUTE ISSUES
==============
# HODGKIN LYMPHOMA: 
Ms ___ initially presented with a few weeks of night sweats, 
weight loss, and bulkly lymphadenopathy. Excisional lymph node 
biopsy of supraclavicular node with classic Hodgkin lymphoma, 
nodular sclerosis subtype. PET ___ with FDG avid mediastinal, 
right hilar, bilateral internal mammillary, cervical chain, and 
porta hepatis lymphadenopathy, as well as lesions in the spleen, 
and diffuse avidity in the bone marrow. Per Dr. ___ 
she has splenic lesions, bone marrow involvement would not 
change management at this time, so although the FDG avidity of 
the bone marrow may indicate involvement, bone marrow biopsy was 
deferred at this time. 

Although she has bulky mediastinal adenopathy, she did not have 
any signs or symptoms concerning for SVC syndrome. Additionally, 
she had no lab abnormalities consistent with TLS, and G6PD was 
within normal limits. For pre-chemo workup, she had a TTE ___ 
with EF 55-60%, and PFTs ___ with DsbHb 124% of predicted. She 
also underwent ___ port placement with follow up in clinic 
___ with Dr. ___ likely initiation of chemotherapy 
at that time. 

During this hospitalizaion, Ob/Gyn was consulted to aid in 
fertility preservation options before starting chemotherapy. The 
only known and approved fertility preservation therapy would be 
oocyte cryopreservation, which would be done as an outpatient at 
___ IVF. However this would likely take ___ weeks minimum and 
would delay treatment. Another option includes medical treatment 
with monthly IM injections of Lupron (GnRH agonist), although 
the studies on this are mixed as to whether they prevent 
premature ovarian failure, and no studies have shown in proved 
pregnancy or live birth rates following chemo in treated 
patients. A third option, ovarian tissue freezing would be a 
surgical procedure that is only done at ___ in ___. 
Ultimately, OB-GYN receommended continuing her Mirena IUD for 
now, and outpatient follow up with REI specialist at ___ 
immediately following chemotherapy (Dr. ___. 

She was discharged on allopurinol for TLS prophylaxis, and her 
port was left accessed as she was due to start chemo in clinic 
the day after discharge. 

CHRONIC ISSUES
===============
# MICROCYTIC ANEMIA: 
Stable and present since ___. Normal Fe studies.

# SUBLINICAL HYPOTHYROIDISM: 
___ elevated this hospitalization with normal free T4. Labs and 
symptoms difficult to interpret in the setting of new
malignancy. 

# HISTORY OF RHEUMATOID ARTHRITIS: 
First presented in high school in her knees after arthroscopic 
surgery, treated with MTX then Enbrel. In remission.

#HISTORY OF ANOREXIA: Weight has been stable. 

TRANSITIONAL ISSUES
====================
[] For fertility preservation options, she was referred to Dr. 
___ at ___. She decided to not delay lymphoma 
treatment for fertility preservation at this time. 
[] Acyclovir prophylaxis was not started inpatient. Please 
consider after starting chemotherapy. 
[] Ms ___ is switching insurances as of ___. Please 
ensure that her treatment is approved by both her current and 
future insurances. 
[] She was discharged with an Rx for 4 tablets of 5mg Oxycodone 
for post port-placement pain. Please evaluate pain at follow up 
appointment and prescribe more as needed. 
[] TSH slightly elevated this hospitalization. Please repeat 
thyroid labs in ___ weeks (___)

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
For post-port placement pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6 Disp #*4 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Hodgkin Lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,  

It was a privilege caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were having night sweats and noticed some abnormal lumps 
above your collar bone. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had a biopsy done of the lymph node above your collar 
bone, and you were found to have Hodgkin Lymphoma. 
- You had testing done to see the extent of your Hodkgin 
Lymphoma (CT scans and PET scan). You also had testing done of 
your heart (TTE, "echocardiogram") and lungs (pulmonary function 
test)to get a good baseline before starting chemotherapy.
- You had a port placed to make it easier to receive the 
chemotherapy and have blood draws 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best.

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___